US07985753B2
1-Methyl-3,4-dihydro-isoquinoline
In close analogy to the procedure described above, N-phenethyl-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-phenethyl-acetamide | C(CC1=CC=CC=C1)NC(C)=O | C10H13NO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 1-Methyl-3,4-dihydro-isoquinoline | CC1=NCCC2=CC=CC=C12 | C10H11N
